US07915411B2
N′-(2-tert-Butyl-4-cyano-2H-pyrazol-3-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 5-Amino-1-tert-butyl-1H-pyrazole-4-carbonitrile with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound.

reactant | 5-Amino-1-tert-butyl-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C(C)(C)C)C#N | C8H12N4
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(2-tert-Butyl-4-cyano-2H-pyrazol-3-yl)-N,N-dimethyl-formamidine | C(C)(C)(C)N1N=CC(=C1N=CN(C)C)C#N | C11H17N5
